US08912287B2
To a solution in which 30.3 g (300 mmol) of triethylamine and 34.4 g (200 mmol) of 4-hydroxy-2,2,6,6-tetramethylpiperidine-N-oxide (TEMPOL) were dissolved in 200 mL of tetrahydrofuran (THF), 25.5 g (250 mmol) of acetic anhydride was added at 0° C. The temperature was raised to 25° C. to carry out a reaction for 12 hours, and it was then concentrated by a rotary evaporator. The residue was supplied to 1 liter of iced water, and the precipitated orange solid was collected by filtration to obtain 33.8 g of 4-acetyloxy-2,2,6,6-tetramethylpiperidine-N-oxide.

reactant | triethylamine | 300 mmol, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine-N-oxide | 200 mmol, 34.4 g | OC1CC([NH+](C(C1)(C)C)[O-])(C)C | C9H19NO2
reactant | acetic anhydride | 250 mmol, 25.5 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-acetyloxy-2,2,6,6-tetramethylpiperidine-N-oxide | 33.8 g | C(C)(=O)OC1CC([NH+](C(C1)(C)C)[O-])(C)C | C11H21NO3
